US08252797B2
To a stirred solution of [5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid (1 g, 3.66 mmol) in DCM (15 mL) was added 1,1′-carbonyldiimidazole (0.65 g, 4.02 mmol) portion wise over a period of 10 min at 10-15° C. N,O-dimethylhydroxylamine hydrochloride (0.42 g, 4.39 mmol) was added portion wise and stirred for 5 min at that temperature. To the reaction mixture triethylamine (0.66 ml, 4.75 mmol) was added drop wise and it was stirred for 2 hr at 20-25° C. The reaction mixture was diluted with water (10 ml) and aqueous layer was separated. The aqueous layer was extracted with DCM (2×25 ml). The combined organic layer was washed with 5% HCl (25 ml) and saturated brine solution (25 ml). The organic layer was dried over Na2SO4, evaporated under reduced pressure to obtain 5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide (0.95 g, 83%) as a colorless sticky mass.

reactant | 5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid | 3.66 mmol, 1 g | O=C1CC(CN1C1=CC(=CC=C1)C(F)(F)F)C(=O)O | C12H10F3NO3
reactant | 1,1′-carbonyldiimidazole | 4.02 mmol, 0.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.39 mmol, 0.42 g | Cl.CNOC
reactant | triethylamine | 4.75 mmol, 0.66 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide | 0.95 g, 83% | CON(C(=O)C1CN(C(C1)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H15F3N2O3
